US04800203
Pyrrolo[1,2-b]cinnolin-10(5H)-one
A solution of [2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]carbamic acid, ethyl ester (60.0 g, prepared from 1-amino-2-(2-fluorobenzyl)pyrrole and ethyl chloroformate in substantially the same manner as in Example 3) in 250 ml of ethanol was treated with a solution of potassium hydroxide (51 g) in 150 ml of water and then the mixture was heated at reflux for 1 hour. The ethanol was evaporated and the aqueous layer washed with 3×500 ml of ether The aqueous phase was then adjusted to pH 5 with 6N HCl and the product collected by filtation. Oven drying yielded 20 g of a yellow powder, mp >300° C.

reactant | [2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]carbamic acid, ethyl ester | FC1=C(C(=O)C=2N(C=CC2)NC(OCC)=O)C=CC=C1 | C14H13FN2O3
reactant | 1-amino-2-(2-fluorobenzyl)pyrrole | NN1C(=CC=C1)CC1=C(C=CC=C1)F | C11H11FN2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | potassium hydroxide | 51 g | [OH-].[K+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | Pyrrolo[1,2-b]cinnolin-10(5H)-one | 20 g | C=1C=CN2NC=3C=CC=CC3C(C21)=O | C11H8N2O
